US05728686
a) Diethyl [7-benzyl-3-(3-methylxanthin-1-yl)propyl]phosphonate
The title substance was prepared from 7-benzyl-3-methylxanthine, (0.04 mol) and diethyl 3-bromopropanphosphonate (0.046 mol) analogously to Example 23.

reactant | 7-benzyl-3-methylxanthine | 0.04 mol | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
reactant | diethyl 3-bromopropanphosphonate | 0.046 mol | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
product | Diethyl [7-benzyl-3-(3-methylxanthin-1-yl)propyl]phosphonate | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCP(OCC)(OCC)=O)=O)C | C20H27N4O5P
